US04303655
A mixture of 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (2.1 g.) and 98 to 100% formic acid (40 ml.) was stirred for 2.5 hours at room temperature. After the reaction, the reaction mixture was concentrated under reduced pressure. The residue was pulverized in acetonitrile, collected by filtration and then washed with ether to produce brown powder (1.3 g.). The powder was dissolved in 5% sodium bicarbonate aqueous solution (20 ml.) and then adjusted to pH 6 with acetic acid. The mixture was subjected to neutral almina column chromatography by using pH 5.0 acetate buffer as an eluent. The eluates containing object compound (230 ml.) were collected, adjusted to pH 2.8 to 3.0 with 10% hydrochloric acid, washed with ethyl acetate, and then remaining ethyl acetate was distilled off from the eluates under reduced pressure. The resulting aqueous layer was subjected to column chromatography (Amberlite XAD-4 prepared by Rohm & Haas Co.), and the column was washed with water and then eluted with 20% methanol (80 ml.), 50% methanol (80 ml.) and 70% methanol (300 ml.) in turn. The eluates containing the object compound were collected and then methanol was distilled off under reduced pressure. The remaining aqueous solution was lyophillized to give pale brown powder of 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2(2-amino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (0.40 g.), mp. 151° to 180° C. (dec.).

reactant | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NC(=O)OC(C)(C)CC)O)=O)=O | C21H24N6O7S4
reactant | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2NC(SC2)=NC(=O)OC(C)(C)CC)O)=O)=O | C21H24N6O7S4
reactant | formic acid | 40 ml | C(=O)O | CH2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | acetate | pH 5.0 | C(C)(=O)[O-]
product | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2(2-amino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)N)O)=O)=O | C15H14N6O5S4
